US03956221
30 grams of 1,2,4-triethylbenzene (b.p. approx. 215°C)
30 grams of the reaction product of glycerine with propylene oxide to a molecular weight of about 260.

reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | glycerine | OCC(O)CO | C3H8O3
product | 1,2,4-triethylbenzene | C(C)C1=C(C=C(C=C1)CC)CC | C12H18
